US09428477B2
Production of 1-((E)-2-Decenoyl)-4-isopropylpiperazine [Compound 20]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 1-isopropylpiperazine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-isopropylpiperazine | C(C)(C)N1CCNCC1 | C7H16N2
product | 1-((E)-2-Decenoyl)-4-isopropylpiperazine | C(\C=C\CCCCCCC)(=O)N1CCN(CC1)C(C)C | C17H32N2O
